US09340527B2
The compound was prepared in a manner similar as to that described for 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-ethyl-piperidine-4-carboxylic acid using 3-Methyl-piperidine-4-carboxylic acid (0.154 g, 1.08 mmol), 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (0.3 g, 0.9 mmol) and Acetic acid (0.18 mL, 3.1 mmol) in Methanol (1.8 mL, 44 mmol) and sodium cyanoborohydride (84.101 mg, 1.3383 mmol) to give 6 mg 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-3-methyl-piperidine-4-carboxylic acid (2%). ESI-LCMS 438 (M+H). 1H NMR (DMSO-d6, 400 MHz): δ (ppm) 7.73-8.05 (m, 3H), 7.50-7.67 (m, 1H), 7.44 (s, 1H), 7.12-7.30 (m, 1H), 4.45 (br. s., 3H), 2.99-3.49 (m, 3H), 2.59-2.74 (m, 1H), 1.70-2.28 (m, 7H), 1.03-1.48 (m, 6H), 0.96 (d, J=6.8 Hz, 3H), 0.89 (s, 9H).

reactant | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-ethyl-piperidine-4-carboxylic acid | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)(C(=O)O)CC | C29H41NO3
reactant | 3-Methyl-piperidine-4-carboxylic acid | 1.08 mmol, 0.154 g | CC1CNCCC1C(=O)O | C7H13NO2
reactant | 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | 0.9 mmol, 0.3 g | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | Acetic acid | 3.1 mmol, 0.18 mL | C(C)(=O)O | C2H4O2
reactant | Methanol | 44 mmol, 1.8 mL | CO | CH4O
reactant | sodium cyanoborohydride | 1.3383 mmol, 84.101 mg | C(#N)[BH3-].[Na+]
product | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-3-methyl-piperidine-4-carboxylic acid | 6 mg, 2% | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CC(C(CC1)C(=O)O)C | C28H39NO3
